US09120804B2
N-(4-morpholinophenyl)-8-pyrido[2,3-b]pyrazin-7-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine (“C37”)
8-Pyrido[2,3-b]pyrazin-7-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine, 4-(4-chloro-phenyl)-morpholine (1.1 eq.), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl]2-(2-aminoethyl)phenyl)Pd(II) (0.25 eq), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl; BrettPhos (0.25 eq.) are combined and suspended in t-butanol. The suspension is purged with N2 and lithium bis(trimethylsilyl)amide, (3 eq; 20% (ca 1.06M) solution in THF/ethylbenzene) is added. The vessel is sealed under N2 and heated to 65° C. for 2 h and then to 110° C. for 2 h. The mixture is filtered and concentrated. Purification via prep. HPLC gives the title compound.

reactant | 8-Pyrido[2,3-b]pyrazin-7-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | N1=C2C(=NC=C1)N=CC(=C2)C=2C=1N(C=CN2)N=C(N1)N | C12H8N8
reactant | 4-(4-chloro-phenyl)-morpholine | 1.1 eq. | ClC1=CC=C(C=C1)N1CCOCC1 | C10H12ClNO
reactant | 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | BrettPhos | 0.25 eq. | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | N-(4-morpholinophenyl)-8-pyrido[2,3-b]pyrazin-7-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | O1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=NC=C2)C2=CC=3C(=NC=CN3)N=C2)=N1 | C22H19N9O
